US06358971B1
2-Trifluoromethylmandelic acid
The 2-trifluoromethylbenzaldehyde (43.9 g, 252 mmol) was converted to product in a manner substantially analogous to Preparation 59 to yield 39.1 g. (70.5%). EA, MS(FD).

reactant | 2-trifluoromethylbenzaldehyde | 252 mmol, 43.9 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | EA | CC(OCC)=O | C4H8O2
product | 2-Trifluoromethylmandelic acid | FC(C1=C(C(C(=O)O)O)C=CC=C1)(F)F | C9H7F3O3
